US03987053
By reacting 0.33 g. of 1-ethyl-5-methyl-2-nitroimidazole with benzaldehyde according to the procedure of Example 55, 0.030 g. of 1-ethyl-2-nitro-5-styrylimidazole is obtained, m.p. 154°-156° C.

reactant | 1-ethyl-5-methyl-2-nitroimidazole | C(C)N1C(=NC=C1C)[N+](=O)[O-] | C6H9N3O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 1-ethyl-2-nitro-5-styrylimidazole | C(C)N1C(=NC=C1C=CC1=CC=CC=C1)[N+](=O)[O-] | C13H13N3O2
